US05416212
N-(2,6-Diisopropylphenyl)-2-[12-(4-phenylpiperazinyl)dodecylthio]acetamide (Compound 24)
To a mixture of 1.47 g of N-(2,6-diisopropylphenyl)-2-(acetylthio)acetamide and 12 ml of methanol was added dropwise 1.7 ml of a 30% aqueous sodium hydroxide solution at 0° C. in an argon atmosphere. After stirring for 30 minutes, a mixture of 2.05 g of 1-bromo-12-(4-phenylpiperazinyl)dodecane synthesized in (1) above and 14 ml of methanol was added thereto, followed by stirring at 60° C. for 1 hour and then at room temperature for 16 hours. To the reaction mixture was added 100 ml of ethyl acetate, and the mixture was washed successively with water and a saturated sodium chloride aqueous solution, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was subjected to column chromatography using a 1:2 mixture of ethyl acetate and hexane as a developing solvent. The resulting crystals were recrystallized from isopropyl alcohol-water to yield 1.66 g of the title compound as white powder (m.p.=76.5° -77.5° C.).

reactant | N-(2,6-diisopropylphenyl)-2-(acetylthio)acetamide | 1.47 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(CSC(C)=O)=O | C16H23NO2S
reactant | methanol | 12 ml | CO | CH4O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 1-bromo-12-(4-phenylpiperazinyl)dodecane | 2.05 g | BrCCCCCCCCCCCCN1CCN(CC1)C1=CC=CC=C1 | C22H37BrN2
reactant | methanol | 14 ml | CO | CH4O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-(2,6-Diisopropylphenyl)-2-[12-(4-phenylpiperazinyl)dodecylthio]acetamide | 1.66 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(CSCCCCCCCCCCCCN1CCN(CC1)C1=CC=CC=C1)=O | C36H57N3OS
